*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:28:28 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "MX3X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  MX3X4 A C Y B S0 S1
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 2.85885e-16
*|P (A X 0 3.3000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 3.2525 0.3375)
*|I (Mmp2:g Mmp2 g X 0 3.2525 1.2575)
*|S (A:2 3.2800 0.7000)
C1 Mmp2:g VSS 5.19035e-17
C2 Mmn2:g VSS 5.53023e-17
C3 A:2 VSS 1.47032e-16
C4 A VSS 3.16474e-17
Rl1 A:2 Mmn2:g 98.768700 $W=0.039
Rl2 Mmp2:g A:2 160.307159 $W=0.039
Rk3 A A:2 45.072811 $W=0.1
*
*|NET C 2.47592e-16
*|P (C X 0 1.3000 0.8550)
*|I (Mmn7:g Mmn7 g X 0 1.3575 0.5100)
*|I (Mmp7:g Mmp7 g X 0 1.3575 1.2150)
*|S (C:2 1.3200 0.7900)
C5 Mmp7:g VSS 6.86676e-17
C6 Mmn7:g VSS 3.60855e-17
C7 C:2 VSS 8.73e-17
C8 C VSS 5.55387e-17
Rl4 C:2 Mmn7:g 43.463600 $W=0.039
Rl5 Mmp7:g C:2 74.232826 $W=0.039
Rk6 C C:2 45.036346 $W=0.1
*
*|NET Y 2.76571e-16
*|P (Y X 0 0.5000 0.6650)
*|I (Mmn9@1:d Mmn9@1 d X 0 0.5450 0.5100)
*|I (Mmp9@1:d Mmp9@1 d X 0 0.5450 1.2150)
C9 Mmp9@1:d VSS 1.60445e-16
C10 Mmn9@1:d VSS 9.72577e-17
C11 Y VSS 1.88686e-17
Rk7 Mmn9@1:d Y 0.044462 $W=0.122
Rk8 Mmp9@1:d Y 0.265033 $W=0.1
*
*|NET B 2.72614e-16
*|P (B X 0 2.5000 0.6650)
*|I (Mmn4:g Mmn4 g X 0 2.5475 0.3375)
*|I (Mmp4:g Mmp4 g X 0 2.5475 1.2575)
*|S (B:2 2.5100 0.6400)
*|S (B:4 2.5050 0.6400)
C12 Mmp4:g VSS 6.17388e-17
C13 Mmn4:g VSS 3.44293e-17
C14 B:4 VSS 3.62584e-17
C15 B:2 VSS 5.36502e-17
C16 B VSS 8.65368e-17
Rl9 B:2 Mmn4:g 74.232826 $W=0.039
Rl10 Mmp4:g B:2 181.925125 $W=0.039
Rk11 B:4 B 0.014964 $W=0.1
Rk12 B:2 B:4 45.000000 $W=0.1
*
*|NET S0 4.09472e-16
*|P (S0 X 0 3.5000 1.0450)
*|I (Mmn5:g Mmn5 g X 0 2.9225 0.3375)
*|I (Mmn0:g Mmn0 g X 0 3.5175 0.3375)
*|I (Mmp3:g Mmp3 g X 0 2.9725 1.2575)
*|I (Mmp0:g Mmp0 g X 0 3.5175 1.2575)
*|S (S0:2 3.0100 1.0500)
*|S (S0:5 3.4900 1.0400)
*|S (S0:7 3.4900 1.0400)
C17 Mmp0:g VSS 2.69357e-17
C18 Mmp3:g VSS 3.1483e-17
C19 Mmn0:g VSS 5.06876e-17
C20 Mmn5:g VSS 6.08766e-17
C21 S0:2 VSS 1.25759e-16
C22 S0:5 VSS 1.1373e-16
Rl13 S0:2 Mmn5:g 233.413864 $W=0.039
Rl14 S0:5 Mmn0:g 229.537933 $W=0.039
Rl15 Mmp3:g S0:2 24.232828 $W=0.039
Rl16 Mmp0:g S0:5 29.537928 $W=0.039
Rk17 S0 S0:7 0.005081 $W=0.13
Rk18 S0:5 S0:7 45.000000 $W=0.1225
Rk19 S0:7 S0:2 45.285202 $W=0.1
*
*|NET S1 4.5054e-16
*|P (S1 X 0 2.3000 0.6650)
*|I (Mmn8:g Mmn8 g X 0 1.6175 0.5100)
*|I (Mmn1:g Mmn1 g X 0 2.3425 0.3375)
*|I (Mmp6:g Mmp6 g X 0 1.8325 1.2150)
*|I (Mmp1:g Mmp1 g X 0 2.3375 1.2575)
*|S (S1:2 2.3100 0.9050)
*|S (S1:3 1.8325 0.9425)
C23 Mmp1:g VSS 3.68566e-17
C24 Mmp6:g VSS 3.10087e-17
C25 Mmn1:g VSS 5.36842e-17
C26 Mmn8:g VSS 6.53992e-17
C27 S1:3 VSS 7.41287e-17
C28 S1:2 VSS 1.14493e-16
C29 S1 VSS 7.49696e-17
Rl20 S1:2 S1:3 162.375854 $W=0.039
Rl21 S1:3 Mmn8:g 179.568405 $W=0.039
Rl22 Mmn1:g S1:2 171.319458 $W=0.039
Rl23 S1:3 Mmp6:g 28.079685 $W=0.039
Rl24 S1:2 Mmp1:g 77.655907 $W=0.039
Rk25 S1 S1:2 45.143654 $W=0.1
*
*|NET n1 5.28887e-16
*|I (Mmn9@1:g Mmn9@1 g X 0 0.4425 0.5100)
*|I (Mmn8:d Mmn8 d X 0 1.7775 0.5100)
*|I (Mmp8:d Mmp8 d X 0 1.6575 1.2150)
*|S (n1:14 1.5400 0.6300)
C30 Mmp8:d VSS 1.04432e-16
C31 Mmn8:d VSS 4.12737e-17
C32 Mmn9@1:g VSS 3.14997e-16
C33 n1:14 VSS 6.81845e-17
Rk26 n1:14 Mmn9@1:g 45.357666 $W=0.08
Rk27 n1:14 Mmn8:d 75.124649 $W=0.0915
Rk28 n1:14 Mmp8:d 21.129036 $W=0.0835
*
*|NET net245 5.3414e-18
*|I (Mmn7:d Mmn7 d X 0 1.4875 0.5100)
*|I (Mmn8:s Mmn8 s X 0 1.4875 0.5100)
C34 Mmn7:d VSS 5.3414e-18
Rmw29 Mmn8:s Mmn7:d 0.001000 $W=1
*
*|NET n0 5.07146e-16
*|I (Mmn6:s Mmn6 s X 0 2.0300 0.5100)
*|I (Mmn5:d Mmn5 d X 0 3.0250 0.3375)
*|I (Mmp6:d Mmp6 d X 0 1.9250 1.2150)
*|I (Mmp5:d Mmp5 d X 0 2.8700 1.2575)
*|S (n0:2 2.6700 1.1150)
*|S (n0:3 2.1250 1.1150)
C35 Mmp5:d VSS 2.51899e-17
C36 Mmp6:d VSS 4.34479e-17
C37 Mmn5:d VSS 1.07511e-16
C38 Mmn6:s VSS 9.88784e-17
C39 n0:3 VSS 9.12829e-17
C40 n0:2 VSS 1.40837e-16
Rk30 n0:2 n0:3 0.384179 $W=0.08
Rk31 n0:3 Mmn6:s 75.408432 $W=0.08
Rk32 Mmn5:d n0:2 75.780472 $W=0.08
Rk33 n0:3 Mmp6:d 62.148598 $W=0.08
Rk34 n0:2 Mmp5:d 62.226738 $W=0.1
*
*|NET S1b 5.62136e-16
*|I (Mmn6:g Mmn6 g X 0 1.9375 0.5100)
*|I (Mmn1:d Mmn1 d X 0 2.2500 0.3375)
*|I (Mmp8:g Mmp8 g X 0 1.4825 1.2150)
*|I (Mmp1:d Mmp1 d X 0 2.2450 1.2575)
*|S (S1b:1 1.7000 0.8850)
*|S (S1b:4 1.9650 0.8000)
*|S (S1b:6 1.7525 0.9150)
*|S (S1b:7 1.8800 0.8000)
C41 Mmp1:d VSS 8.88547e-17
C42 Mmp8:g VSS 7.28303e-17
C43 Mmn1:d VSS 7.427e-17
C44 Mmn6:g VSS 3.10794e-17
C45 S1b:7 VSS 8.10767e-17
C46 S1b:1 VSS 1.44986e-16
C47 S1b:4 VSS 6.90386e-17
Rl35 Mmn6:g S1b:4 93.768700 $W=0.039
Rl36 S1b:1 Mmp8:g 143.054108 $W=0.039
Rk37 S1b:6 S1b:1 0.045984 $W=0.12
Rk38 S1b:7 S1b:4 0.027824 $W=0.125
Rk39 S1b:6 S1b:7 0.197586 $W=0.0985
Rk40 S1b:7 Mmn1:d 75.598831 $W=0.09
Rk41 Mmp1:d S1b:6 62.598789 $W=0.08
*
*|NET net234 1.83395e-19
*|I (Mmn4:d Mmn4 d X 0 2.7350 0.3375)
*|I (Mmn5:s Mmn5 s X 0 2.7350 0.3375)
C48 Mmn4:d VSS 1.83395e-19
Rmw42 Mmn5:s Mmn4:d 0.001000 $W=1
*
*|NET net229 0
*|I (Mmn3:s Mmn3 s X 0 3.1900 0.3375)
*|I (Mmn2:d Mmn2 d X 0 3.1900 0.3375)
Rmw43 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET S0b 5.31751e-16
*|I (Mmn3:g Mmn3 g X 0 3.1275 0.3375)
*|I (Mmn0:d Mmn0 d X 0 3.6350 0.3375)
*|I (Mmp5:g Mmp5 g X 0 2.7675 1.2575)
*|I (Mmp0:d Mmp0 d X 0 3.6500 1.2575)
*|S (S0b:2 2.8300 0.9250)
*|S (S0b:4 3.0900 0.6550)
*|S (S0b:6 3.6700 0.5400)
C49 Mmp0:d VSS 5.0353e-17
C50 Mmp5:g VSS 4.40068e-17
C51 Mmn0:d VSS 1.95372e-17
C52 Mmn3:g VSS 5.98982e-17
C53 S0b:6 VSS 8.16396e-17
C54 S0b:2 VSS 1.15062e-16
C55 S0b:4 VSS 1.61254e-16
Rl44 Mmn3:g S0b:4 125.002060 $W=0.039
Rl45 Mmp5:g S0b:2 135.100311 $W=0.039
Rk46 S0b:4 S0b:2 0.382463 $W=0.08
Rk47 S0b:6 S0b:4 0.479250 $W=0.08
Rk48 Mmn0:d S0b:6 75.136803 $W=0.1
Rk49 S0b:6 Mmp0:d 62.450733 $W=0.1
*
*|NET net202 0
*|I (Mmp7:d Mmp7 d X 0 1.4200 1.2150)
*|I (Mmp8:s Mmp8 s X 0 1.4200 1.2150)
Rmw50 Mmp8:s Mmp7:d 0.001000 $W=1
*
*|NET net190 3.7823e-18
*|I (Mmp4:d Mmp4 d X 0 2.6575 1.2575)
*|I (Mmp5:s Mmp5 s X 0 2.6575 1.2575)
C56 Mmp4:d VSS 3.7823e-18
Rmw51 Mmp5:s Mmp4:d 0.001000 $W=1
*
*|NET net189 0
*|I (Mmp3:s Mmp3 s X 0 3.1125 1.2575)
*|I (Mmp2:d Mmp2 d X 0 3.1125 1.2575)
Rmw52 Mmp2:d Mmp3:s 0.001000 $W=1
*
*Instance Section
*
Mmn7	Mmn7:d	Mmn7:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0559P	AS=0.0455P	PD=0.95U	PS=0.87U
+ fw=2.6e-07 sa=1.055e-06 sb=7.2e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmn8	Mmn8:d	Mmn8:g	Mmn8:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0715P	AS=0.0559P	PD=1.07U	PS=0.95U
+ fw=2.6e-07 sa=1.315e-06 sb=4.6e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmn6	Mmn8:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0715P	AS=0.0364P	PD=1.07U	PS=0.8U
+ fw=2.6e-07 sa=1.635e-06 sb=1.4e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=1.365e-06 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.04785P	AS=0.0232P	PD=0.95U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=1.16e-06 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn5	Mmn5:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.04785P	PD=0.61U	PS=0.95U
+ fw=1.45e-07 sa=7.2e-07 sb=7.85e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn3	Mmn5:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0116P	PD=0.61U	PS=0.45U
+ fw=1.45e-07 sa=9.25e-07 sb=5.8e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0116P	AS=0.0319P	PD=0.45U	PS=0.73U
+ fw=1.45e-07 sa=1.05e-06 sb=4.55e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02755P	AS=0.0319P	PD=0.67U	PS=0.73U
+ fw=1.45e-07 sa=1.315e-06 sb=1.9e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn9@1	Mmn9@1:d	Mmn9@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.052P	AS=0.04127P	PD=0.92U	PS=0.8375U	M=4
+ fw=2.6e-07 sa=1.4e-07 sb=1.635e-06 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmp7	Mmp7:d	Mmp7:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0312P	AS=0.06825P	PD=0.94U	PS=1.13U
+ fw=3.9e-07 sa=1.065e-06 sb=6.15e-07 sca=13.3279 scb=0.011929 scc=0.000599966
Mmp8	Mmp8:d	Mmp8:g	Mmp8:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.11895P	AS=0.0312P	PD=1.39U	PS=0.94U
+ fw=3.9e-07 sa=1.19e-06 sb=4.9e-07 sca=13.3279 scb=0.011929 scc=0.000599966
Mmp6	Mmp6:d	Mmp6:g	Mmp8:d	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.11895P	PD=1.06U	PS=1.39U
+ fw=3.9e-07 sa=1.54e-06 sb=1.4e-07 sca=13.3279 scb=0.011929 scc=0.000599966
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.03548P	PD=0.71U	PS=0.76U
+ fw=2.15e-07 sa=1.4e-07 sb=1.4e-06 sca=10.6366 scb=0.00827102 scc=0.000128406
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.03548P	PD=0.78U	PS=0.76U
+ fw=2.15e-07 sa=3.5e-07 sb=1.19e-06 sca=10.6366 scb=0.00827102 scc=0.000128406
Mmp5	Mmp5:d	Mmp5:g	Mmp5:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.03762P	PD=0.75U	PS=0.78U
+ fw=2.15e-07 sa=5.7e-07 sb=9.7e-07 sca=10.6366 scb=0.00827102 scc=0.000128406
Mmp3	Mmp5:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.05052P	PD=0.75U	PS=0.9U
+ fw=2.15e-07 sa=7.75e-07 sb=7.65e-07 sca=10.9501 scb=0.00835862 scc=0.000128423
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05052P	AS=0.0473P	PD=0.9U	PS=0.87U
+ fw=2.15e-07 sa=1.055e-06 sb=4.85e-07 sca=12.393 scb=0.00963865 scc=0.000131709
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0473P	AS=0.0473P	PD=0.87U	PS=0.87U
+ fw=2.15e-07 sa=1.32e-06 sb=2.2e-07 sca=18.2413 scb=0.0194209 scc=0.000499991
Mmp9@1	Mmp9@1:d	Mmn9@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.078P	AS=0.06289P	PD=1.18U	PS=1.1025U	M=4
+ fw=3.9e-07 sa=1.5e-07 sb=1.53e-06 sca=16.3392 scb=0.0152106 scc=0.000622257
.ENDS
.END
