*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:28:43 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "MX4X1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  MX4X1 S1 B S0 C D A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET S1 3.45417e-16
*|P (S1 X 0 0.5000 0.6650)
*|I (Mmn1:g Mmn1 g X 0 0.5925 0.4625)
*|I (Mmn11:g Mmn11 g X 0 1.2525 0.4925)
*|I (Mmp1:g Mmp1 g X 0 0.5925 1.0925)
*|I (Mmp10:g Mmp10 g X 0 1.4125 1.0075)
*|S (S1:2 1.2525 0.6625)
*|S (S1:3 0.5650 0.6750)
C1 Mmp10:g VSS 5.17402e-17
C2 Mmp1:g VSS 3.2518e-17
C3 Mmn11:g VSS 2.84763e-17
C4 Mmn1:g VSS 2.11525e-17
C5 S1:2 VSS 5.61224e-17
C6 S1:3 VSS 1.20348e-16
C7 S1 VSS 3.50601e-17
Rl1 S1:2 S1:3 248.466354 $W=0.039
Rl2 S1:3 Mmn1:g 36.333523 $W=0.039
Rl3 S1:2 Mmn11:g 30.450726 $W=0.039
Rl4 S1:3 Mmp1:g 101.718132 $W=0.039
Rl5 Mmp10:g S1:2 124.543541 $W=0.039
Rk6 S1:3 S1 45.059376 $W=0.1
*
*|NET B 2.44665e-16
*|P (B X 0 2.9000 1.0450)
*|I (Mmn4:g Mmn4 g X 0 2.9475 0.4775)
*|I (Mmp4:g Mmp4 g X 0 2.9475 1.0825)
*|S (B:2 2.9200 0.8650)
C8 Mmp4:g VSS 4.24262e-17
C9 Mmn4:g VSS 4.27794e-17
C10 B:2 VSS 7.99153e-17
C11 B VSS 7.95443e-17
Rl7 B:2 Mmn4:g 108.384079 $W=0.039
Rl8 Mmp4:g B:2 29.537928 $W=0.039
Rk9 B:2 B 45.092701 $W=0.1
*
*|NET S0 8.83532e-16
*|P (S0 X 0 4.1000 0.8550)
*|I (Mmn9:g Mmn9 g X 0 2.4325 0.4775)
*|I (Mmn5:g Mmn5 g X 0 3.1825 0.4775)
*|I (Mmn0:g Mmn0 g X 0 3.8625 0.4775)
*|I (Mmp7:g Mmp7 g X 0 2.4375 1.0825)
*|I (Mmp3:g Mmp3 g X 0 3.4675 1.0825)
*|I (Mmp0:g Mmp0 g X 0 3.8625 1.0825)
*|S (S0:3 2.4650 1.3750)
*|S (S0:5 3.5050 0.8750)
*|S (S0:8 3.8350 0.8650)
*|S (S0:10 3.5050 0.8750)
*|S (S0:11 3.8350 0.8650)
C12 Mmp0:g VSS 2.83561e-17
C13 Mmp3:g VSS 3.07022e-17
C14 Mmp7:g VSS 5.2736e-17
C15 Mmn0:g VSS 4.16839e-17
C16 Mmn5:g VSS 8.22765e-17
C17 Mmn9:g VSS 8.96166e-17
C18 S0:3 VSS 1.98896e-16
C19 S0:5 VSS 2.18461e-16
C20 S0:8 VSS 8.4198e-17
C21 S0 VSS 5.66056e-17
Rl10 S0:5 Mmn5:g 195.273590 $W=0.039
Rl11 S0:8 Mmn0:g 108.384079 $W=0.039
Rl12 Mmp7:g S0:3 103.384079 $W=0.039
Rl13 Mmn9:g Mmp7:g 161.909012 $W=0.039
Rl14 Mmp3:g S0:5 24.232828 $W=0.039
Rl15 Mmp0:g S0:8 29.537928 $W=0.039
Rk16 S0:5 S0:10 45.000000 $W=0.08
Rk17 S0:3 S0:10 1.171614 $W=0.08
Rk18 S0:11 S0 0.189222 $W=0.09
Rk19 S0:8 S0:11 45.000000 $W=0.085
Rk20 S0:10 S0:11 0.251216 $W=0.085
*
*|NET C 2.74686e-16
*|P (C X 0 2.5000 1.0450)
*|I (Mmn6:g Mmn6 g X 0 2.7425 0.4775)
*|I (Mmp6:g Mmp6 g X 0 2.6675 1.0825)
*|S (C:2 2.7050 0.8650)
C22 Mmp6:g VSS 4.08658e-17
C23 Mmn6:g VSS 6.77652e-17
C24 C:2 VSS 1.16887e-16
C25 C VSS 4.91679e-17
Rl21 Mmn6:g C:2 109.615387 $W=0.039
Rl22 C:2 Mmp6:g 30.219780 $W=0.039
Rk23 C:2 C 45.211205 $W=0.1
*
*|NET D 2.89926e-16
*|P (D X 0 1.9000 0.6650)
*|I (Mmn8:g Mmn8 g X 0 2.3275 0.4775)
*|I (Mmp8:g Mmp8 g X 0 2.0575 1.0825)
*|S (D:2 2.0575 0.8650)
*|S (D:3 1.9550 0.8650)
C26 Mmp8:g VSS 4.13629e-17
C27 Mmn8:g VSS 7.2378e-17
C28 D:2 VSS 3.86314e-17
C29 D:3 VSS 8.52177e-17
C30 D VSS 5.23358e-17
Rl24 D:2 D:3 51.986729 $W=0.114
Rl25 Mmn8:g D:2 202.291397 $W=0.039
Rl26 D:2 Mmp8:g 37.341133 $W=0.039
Rk27 D:3 D 0.118199 $W=0.1
*
*|NET A 2.84265e-16
*|P (A X 0 3.7000 0.6650)
*|I (Mmn2:g Mmn2 g X 0 3.5975 0.4775)
*|I (Mmp2:g Mmp2 g X 0 3.6475 1.0825)
*|S (A:2 3.6750 0.6850)
C31 Mmp2:g VSS 5.63138e-17
C32 Mmn2:g VSS 3.41034e-17
C33 A:2 VSS 5.1055e-17
C34 A VSS 1.42792e-16
Rl28 A:2 Mmn2:g 44.207958 $W=0.039
Rl29 Mmp2:g A:2 94.025826 $W=0.039
Rk30 A:2 A 45.027180 $W=0.12
*
*|NET Y 1.2172e-16
*|P (Y X 0 0.1000 0.4750)
*|I (Mmn12:d Mmn12 d X 0 0.1300 0.4050)
*|I (Mmp12:d Mmp12 d X 0 0.1400 1.1800)
C35 Mmp12:d VSS 5.52783e-17
C36 Mmn12:d VSS 6.64421e-17
Rk31 Y Mmn12:d 75.003006 $W=0.08
Rk32 Mmp12:d Y 21.161100 $W=0.09
*
*|NET n2 6.81683e-16
*|I (Mmn12:g Mmn12 g X 0 0.2325 0.4050)
*|I (Mmn11:d Mmn11 d X 0 1.3575 0.4925)
*|I (Mmp12:g Mmp12 g X 0 0.2325 1.1800)
*|I (Mmp11:s Mmp11 s X 0 1.3100 1.0075)
*|S (n2:2 0.2700 0.6600)
*|S (n2:5 1.3100 0.9600)
C37 Mmp11:s VSS 2.60036e-16
C38 Mmp12:g VSS 4.84452e-17
C39 Mmn11:d VSS 7.9201e-17
C40 Mmn12:g VSS 2.82848e-17
C41 n2:2 VSS 2.65716e-16
Rl33 n2:2 Mmn12:g 33.848213 $W=0.039
Rl34 Mmp12:g n2:2 110.771286 $W=0.039
Rk35 n2:2 n2:5 46.732796 $W=0.08
Rk36 n2:5 Mmn11:d 75.397110 $W=0.08
Rk37 Mmp11:s n2:5 62.000000 $W=0.08
*
*|NET S1b 5.69913e-16
*|I (Mmn1:d Mmn1 d X 0 0.6950 0.4625)
*|I (Mmn10:g Mmn10 g X 0 1.4625 0.4925)
*|I (Mmp1:d Mmp1 d X 0 0.6850 1.0925)
*|I (Mmp11:g Mmp11 g X 0 1.2075 1.0075)
*|S (S1b:2 1.2350 1.3000)
*|S (S1b:4 1.5000 0.6700)
*|S (S1b:7 0.6950 1.1400)
C42 Mmp11:g VSS 4.63968e-17
C43 Mmp1:d VSS 1.12146e-16
C44 Mmn10:g VSS 3.93101e-17
C45 Mmn1:d VSS 9.30989e-17
C46 S1b:2 VSS 1.35308e-16
C47 S1b:4 VSS 1.43653e-16
Rl38 Mmn10:g S1b:4 71.155907 $W=0.039
Rl39 Mmp11:g S1b:2 103.384079 $W=0.039
Rk40 S1b:2 S1b:4 0.658865 $W=0.08
Rk41 S1b:7 S1b:2 0.500752 $W=0.09
Rk42 Mmn1:d S1b:7 75.551010 $W=0.08
Rk43 Mmp1:d S1b:7 62.000000 $W=0.08
*
*|NET n1 5.25791e-16
*|I (Mmn11:s Mmn11 s X 0 1.1600 0.4925)
*|I (Mmn9:d Mmn9 d X 0 2.5350 0.4775)
*|I (Mmp11:d Mmp11 d X 0 1.1150 1.0075)
*|I (Mmp9:d Mmp9 d X 0 2.3050 1.0825)
*|S (n1:2 2.1450 0.4950)
*|S (n1:4 2.2750 1.0350)
*|S (n1:6 1.1500 0.4800)
C48 Mmp9:d VSS 7.91763e-17
C49 Mmp11:d VSS 7.88815e-17
C50 Mmn9:d VSS 4.82823e-17
C51 Mmn11:s VSS 1.49394e-16
C52 n1:2 VSS 1.70056e-16
Rk44 n1:2 n1:4 0.416438 $W=0.08
Rk45 n1:2 n1:6 0.975765 $W=0.085
Rk46 Mmn11:s n1:6 75.000000 $W=0.085
Rk47 Mmn9:d n1:2 75.290543 $W=0.09
Rk48 n1:6 Mmp11:d 62.368629 $W=0.085
Rk49 Mmp9:d n1:4 62.000000 $W=0.08
*
*|NET n0 6.44922e-16
*|I (Mmn10:s Mmn10 s X 0 1.5550 0.4925)
*|I (Mmn5:d Mmn5 d X 0 3.2850 0.4775)
*|I (Mmp10:s Mmp10 s X 0 1.5625 1.0075)
*|I (Mmp5:d Mmp5 d X 0 3.3100 1.0825)
*|S (n0:3 3.3150 1.0350)
*|S (n0:5 1.6300 1.0050)
C53 Mmp5:d VSS 2.48479e-16
C54 Mmp10:s VSS 2.41242e-16
C55 Mmn5:d VSS 7.0575e-17
C56 Mmn10:s VSS 8.46263e-17
Rk50 n0:3 n0:5 1.556285 $W=0.08
Rk51 n0:5 Mmn10:s 75.489731 $W=0.08
Rk52 Mmn5:d n0:3 75.408356 $W=0.08
Rk53 Mmp10:s n0:5 62.000000 $W=0.08
Rk54 Mmp5:d n0:3 62.000000 $W=0.08
*
*|NET n9 1.7621e-18
*|I (Mmn8:d Mmn8 d X 0 2.3800 0.4775)
*|I (Mmn9:s Mmn9 s X 0 2.3800 0.4775)
C57 Mmn8:d VSS 1.7621e-18
Rmw55 Mmn9:s Mmn8:d 0.001000 $W=1
*
*|NET n7 0
*|I (Mmn7:s Mmn7 s X 0 2.6900 0.4775)
*|I (Mmn6:d Mmn6 d X 0 2.6900 0.4775)
Rmw56 Mmn6:d Mmn7:s 0.001000 $W=1
*
*|NET S0b 9.70965e-16
*|I (Mmn7:g Mmn7 g X 0 2.6375 0.4775)
*|I (Mmn3:g Mmn3 g X 0 3.3875 0.4775)
*|I (Mmn0:d Mmn0 d X 0 3.9550 0.4775)
*|I (Mmp9:g Mmp9 g X 0 2.1725 1.0825)
*|I (Mmp5:g Mmp5 g X 0 3.1525 1.0825)
*|I (Mmp0:d Mmp0 d X 0 3.9550 1.0825)
*|S (S0b:1 2.3050 0.7900)
*|S (S0b:4 2.6000 0.6750)
*|S (S0b:6 3.1250 0.7900)
*|S (S0b:8 3.3500 0.2200)
*|S (S0b:10 3.9650 0.4650)
*|S (S0b:11 3.0950 0.6750)
C58 Mmp0:d VSS 9.45691e-17
C59 Mmp5:g VSS 4.39852e-17
C60 Mmp9:g VSS 5.95993e-17
C61 Mmn0:d VSS 1.35967e-16
C62 Mmn3:g VSS 6.39369e-17
C63 Mmn7:g VSS 6.45686e-17
C64 S0b:11 VSS 6.99938e-17
C65 S0b:1 VSS 1.13009e-16
C66 S0b:4 VSS 1.0656e-16
C67 S0b:6 VSS 7.43949e-17
C68 S0b:8 VSS 1.44381e-16
Rl57 Mmn7:g S0b:4 78.848213 $W=0.039
Rl58 Mmn3:g S0b:8 101.925140 $W=0.039
Rl59 S0b:1 Mmp9:g 129.592575 $W=0.039
Rl60 Mmp5:g S0b:6 103.384079 $W=0.039
Rk61 S0b:4 S0b:1 0.297440 $W=0.09
Rk62 S0b:10 S0b:8 0.647312 $W=0.08
Rk63 S0b:8 S0b:11 0.516401 $W=0.09
Rk64 S0b:11 S0b:6 0.087257 $W=0.09
Rk65 S0b:11 S0b:4 0.332581 $W=0.09
Rk66 Mmn0:d S0b:10 75.000000 $W=0.1225
Rk67 S0b:10 Mmp0:d 62.803219 $W=0.09
*
*|NET n5 1.40393e-18
*|I (Mmn4:d Mmn4 d X 0 3.0650 0.4775)
*|I (Mmn5:s Mmn5 s X 0 3.0650 0.4775)
C69 Mmn4:d VSS 1.40393e-18
Rmw68 Mmn5:s Mmn4:d 0.001000 $W=1
*
*|NET n3 1.13596e-18
*|I (Mmn3:s Mmn3 s X 0 3.4925 0.4775)
*|I (Mmn2:d Mmn2 d X 0 3.4925 0.4775)
C70 Mmn3:s VSS 1.13596e-18
Rmw69 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET n10 2.34734e-18
*|I (Mmp8:d Mmp8 d X 0 2.1150 1.0825)
*|I (Mmp9:s Mmp9 s X 0 2.1150 1.0825)
C71 Mmp8:d VSS 2.34734e-18
Rmw70 Mmp9:s Mmp8:d 0.001000 $W=1
*
*|NET n8 4.79338e-18
*|I (Mmp7:s Mmp7 s X 0 2.5525 1.0825)
*|I (Mmp6:d Mmp6 d X 0 2.5525 1.0825)
C72 Mmp7:s VSS 4.79338e-18
Rmw71 Mmp6:d Mmp7:s 0.001000 $W=1
*
*|NET n6 5.26964e-18
*|I (Mmp4:d Mmp4 d X 0 3.0500 1.0825)
*|I (Mmp5:s Mmp5 s X 0 3.0500 1.0825)
C73 Mmp4:d VSS 5.26964e-18
Rmw72 Mmp5:s Mmp4:d 0.001000 $W=1
*
*|NET n4 2.08453e-18
*|I (Mmp3:s Mmp3 s X 0 3.5575 1.0825)
*|I (Mmp2:d Mmp2 d X 0 3.5575 1.0825)
C74 Mmp3:s VSS 2.08453e-18
Rmw73 Mmp2:d Mmp3:s 0.001000 $W=1
*
*Instance Section
*
Mmn12	Mmn12:d	Mmn12:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.06177P	PD=0.84U	PS=1.15U
+ fw=2.6e-07 sa=1.6e-07 sb=3.51923e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.06177P	PD=0.61U	PS=1.15U
+ fw=1.45e-07 sa=5.2e-07 sb=1.6e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn11	Mmn11:d	Mmn11:g	Mmn11:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02392P	AS=0.0203P	PD=0.62U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=3.5e-07 sca=12.5912 scb=0.0129007 scc=0.000589158
Mmn10	Mmn11:d	Mmn10:g	Mmn10:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02392P	AS=0.0203P	PD=0.62U	PS=0.57U
+ fw=1.45e-07 sa=3.5e-07 sb=1.4e-07 sca=12.5912 scb=0.0129007 scc=0.000589158
Mmn8	Mmn8:d	Mmn8:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.04025P	PD=0.41U	PS=0.89U
+ fw=1.45e-07 sa=1.7e-07 sb=1.675e-06 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn9	Mmn9:d	Mmn9:g	Mmn9:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=2.75e-07 sb=1.57e-06 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn7	Mmn9:d	Mmn7:g	Mmn7:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=4.8e-07 sb=1.365e-06 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn6	Mmn6:d	Mmn6:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=5.85e-07 sb=1.26e-06 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02755P	AS=0.0232P	PD=0.67U	PS=0.61U
+ fw=1.45e-07 sa=7.9e-07 sb=1.055e-06 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn5	Mmn5:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.02755P	PD=0.61U	PS=0.67U
+ fw=1.45e-07 sa=1.025e-06 sb=8.2e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn3	Mmn5:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.02393P	PD=0.61U	PS=0.62U
+ fw=1.45e-07 sa=1.23e-06 sb=6.15e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02393P	AS=0.0475P	PD=0.62U	PS=0.99U
+ fw=1.45e-07 sa=1.44e-06 sb=4.05e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0475P	PD=0.57U	PS=0.99U
+ fw=1.45e-07 sa=1.705e-06 sb=1.4e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmp12	Mmp12:d	Mmp12:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.09223P	PD=1.06U	PS=1.41U
+ fw=3.9e-07 sa=1.4e-07 sb=3.38462e-07 sca=26.2357 scb=0.0296246 scc=0.00188388
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.09223P	PD=0.71U	PS=1.41U
+ fw=2.15e-07 sa=5e-07 sb=1.4e-07 sca=21.1359 scb=0.020206 scc=0.00179608
Mmp11	Mmp11:d	Mmp11:g	Mmp11:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=4.6e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp10	Mmp11:s	Mmp10:g	Mmp10:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.05483P	PD=0.75U	PS=0.94U
+ fw=2.15e-07 sa=3.45e-07 sb=2.55e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp8	Mmp8:d	Mmp8:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.01505P	AS=0.06055P	PD=0.57U	PS=1.17U
+ fw=2.15e-07 sa=1.7e-07 sb=1.945e-06 sca=21.1782 scb=0.0203295 scc=0.00208843
Mmp9	Mmp9:d	Mmp9:g	Mmp9:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0473P	AS=0.01505P	PD=0.87U	PS=0.57U
+ fw=2.15e-07 sa=2.85e-07 sb=1.83e-06 sca=21.1782 scb=0.0203295 scc=0.00208843
Mmp7	Mmp9:d	Mmp7:g	Mmp7:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0473P	AS=0.03977P	PD=0.87U	PS=0.8U
+ fw=2.15e-07 sa=5.5e-07 sb=1.565e-06 sca=21.1782 scb=0.0203295 scc=0.00208843
Mmp6	Mmp6:d	Mmp6:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03977P	AS=0.08093P	PD=0.8U	PS=1.92U
+ fw=2.15e-07 sa=7.8e-07 sb=1.335e-06 sca=21.1782 scb=0.0203295 scc=0.00208843
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.08093P	PD=0.75U	PS=1.92U
+ fw=2.15e-07 sa=1.06e-06 sb=1.055e-06 sca=21.1782 scb=0.0203295 scc=0.00208843
Mmp5	Mmp5:d	Mmp5:g	Mmp5:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05805P	AS=0.0344P	PD=0.97U	PS=0.75U
+ fw=2.15e-07 sa=1.265e-06 sb=8.5e-07 sca=21.1782 scb=0.0203295 scc=0.00208843
Mmp3	Mmp5:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05805P	AS=0.02902P	PD=0.97U	PS=0.7U
+ fw=2.15e-07 sa=1.58e-06 sb=5.35e-07 sca=21.2369 scb=0.0203411 scc=0.00208843
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.02902P	AS=0.03655P	PD=0.7U	PS=0.77U
+ fw=2.15e-07 sa=1.76e-06 sb=3.55e-07 sca=21.7372 scb=0.0205342 scc=0.0020885
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.03655P	PD=0.71U	PS=0.77U
+ fw=2.15e-07 sa=1.975e-06 sb=1.4e-07 sca=23.0263 scb=0.0218192 scc=0.0020924
.ENDS
.END
